US08802864B2
a) N-(4-bromo-2,5-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide
To a round bottom flask, 4-bromo-2,5-difluoroaniline (2 g, 9.62 mmol) and triphosgene (0.999 g, 3.37 mmol) were added under nitrogen and the mixture was cooled to −78° C. Dichloromethane (40 mL) was added followed by the slow addition of Hunig's base (3.36 mL, 19.23 mmol). The reaction was allowed to room temperature. Analysis by LCMS indicated desired intermediate formation. The solution was re-cooled to −78° C. and 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide (1.219 g, 5.77 mmol) in dichloromethane (10 mL) was added. The solution was allowed to warm to room temperature, and analysis by LCMS indicated desired product formation. After 2 h of stirring at room temperature the desired product began to precipitate out of solution and was collected by filtration and dried via vacuum filtration to afford the title product as a white solid (1340 mg, 62%). MS(ES)+ m/e 445.1, 446.9 M+H]+.

reactant | 4-bromo-2,5-difluoroaniline | 9.62 mmol, 2 g | BrC1=CC(=C(N)C=C1F)F | C6H4BrF2N
reactant | triphosgene | 3.37 mmol, 0.999 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Hunig's base | 19.23 mmol, 3.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide | 5.77 mmol, 1.219 g | C1(CC1)C(=O)N1C[C@@H](CC1)CC(=O)NN | C10H17N3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2,5-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | BrC1=CC(=C(C=C1F)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H19BrF2N4O3
